US08242153B2
To a stirred, cooled (0° C.) solution of (methoxymethyl)triphenylphosphonium chloride (24.9 g) in tetrahydrofuran (190 ml) under an argon atmosphere was added slowly a solution of potassium tert.butoxide in tetrahydrofuran (30 ml) followed (after 30 min stirring) by a solution of 1-(3,5-difluoro-phenyl)-cyclopropanecarbaldehyde (6.3 g) in tetrahydrofuran (40 ml). Stirring was continued overnight, then the reaction mixture was quenched by adding an aqueous sodium chloride solution. The mixture was extracted with ethyl acetate twice and the combined organic layers were dried over MgSO4 and concentrated. The crude enol ether was dissolved in acetone (20 ml) and stirred with 6 M aqueous hydrochloric acid (40 ml) for 6 hours at room temperature. Ethyl acetate was added, the organic layer was separated, washed with brine, dried over MgSO4 and concentrated. The residue was purified by column chromatography (SiO2; heptane/EtOAc=4:1) to give [1-(3,5-difluoro-phenyl)-cyclopropyl]-acetaldehyde as yellow liquid (2.55 g). 1H-NMR (300 MHz, CDCl3, δ): 0.92-0.98 (m, 2H), 1.00-1.06 (m, 2H), 2.65 (d, J=2 Hz, 2H), 6.60-6.67 (m, 1H), 6.75-6.81 (m, 2H), 9.74 (t, J=2 Hz, 1H).

reactant | (methoxymethyl)triphenylphosphonium chloride | 24.9 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert.butoxide | CC(C)([O-])C.[K+]
reactant | 1-(3,5-difluoro-phenyl)-cyclopropanecarbaldehyde | 6.3 g | FC=1C=C(C=C(C1)F)C1(CC1)C=O | C10H8F2O
solvent | tetrahydrofuran | 190 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | [1-(3,5-difluoro-phenyl)-cyclopropyl]-acetaldehyde | 2.55 g | FC=1C=C(C=C(C1)F)C1(CC1)CC=O | C11H10F2O
